US09381191B2
1 g (6.55 mmol) of imidazo[1,2-a]pyridin-2-ylmethanol were solubilised in 25 ml of dichloromethane with magnetic stirring and then 2.145 ml (9.82 mmol) of triisopropylsilyl chloride were slowly added. The mixture was stirred at r.t. for 1 h before being treated with 100 ml of water. The aqueous phase was extracted with 3×50 ml of dichloromethane. The combined organic phases were washed with 100 ml of a saturated NaCl aqueous solution, dried on Na2SO4 which was then removed by filtration. The obtained filtrate was concentrated in vacuo. The crude residue was purified by flash chromatography on a silica gel cartridge (eluent: dichloromethane 100% and then ethyl acetate 100%). 1.85 g (yield=92%) of 2-(((triisopropylsilyl)oxy)methyl)imidazo[1,2-a]pyridine were obtained as a colourless oil. LC-MS: m/z=305 (MH+); UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.57-8.50 (m, 1H), 7.81 (s, 1H), 7.46 (dd, J=9.1, 0.6 Hz, 1H), 7.19 (ddd, J=9.1, 6.7, 1.3 Hz, 1H), 6.84 (td, J=6.8, 1.1 Hz, 1H), 4.88 (d, J=0.6 Hz, 2H), 1.23-1.11 (m, 3H), 1.11-1.02 (m, 18H).

reactant | imidazo[1,2-a]pyridin-2-ylmethanol | 6.55 mmol, 1 g | N=1C(=CN2C1C=CC=C2)CO | C8H8N2O
reactant | triisopropylsilyl chloride | 9.82 mmol, 2.145 ml | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-(((triisopropylsilyl)oxy)methyl)imidazo[1,2-a]pyridine | 1.85 g, yield=92% | C(C)(C)[Si](OCC=1N=C2N(C=CC=C2)C1)(C(C)C)C(C)C | C17H28N2OSi
